US06489344B1
N-(2-{[4-(2,4-dichlorophenyl)-5-formylpyrimidin-2-yl]amino}ethyl)(tert-butoxy)-carboxamide (50 mg, 0.121 mmol) was dissolved in 5 mL of THF, 242 μL of sodium cyanoborohydride (1 M in THF) and 5 μL of glacial acetic acid added and the mixture was heated to 70° C. for 18 h. Following slow addition of 1 mL of water to decompose excess reagent, the mixture was partitioned between ethyl acetate and saturated citric acid solution. The organic layer was discarded, and aqueous layer was carefully basified with sodium hydoxide to PH 9, then extracted with ethyl acetate twice. The combined organic layers was dried (sodium sulfate), concentrated, and purified by chromatography (selica gel, 10% methanol/methylene chloride) to afford N-(2-{[4-(2,4-dichlorophenyl)-5-(morpholin-4-ylmethyl)pyrimidin-2-yl]amino}ethyl)(tert-butoxy)carboxamide, 30 mg (52%).

reactant | N-(2-{[4-(2,4-dichlorophenyl)-5-formylpyrimidin-2-yl]amino}ethyl)(tert-butoxy)-carboxamide | 0.121 mmol, 50 mg | ClC1=C(C=CC(=C1)Cl)C1=NC(=NC=C1C=O)NCCNC(=O)OC(C)(C)C | C18H20Cl2N4O3
reactant | sodium cyanoborohydride | 1 M, 242 μL | C(#N)[BH3-].[Na+]
reactant | acetic acid | 5 μL | C(C)(=O)O | C2H4O2
reactant | water | 1 mL | O | H2O
reactant | THF | 5 mL | C1CCOC1 | C4H8O
product | N-(2-{[4-(2,4-dichlorophenyl)-5-(morpholin-4-ylmethyl)pyrimidin-2-yl]amino}ethyl)(tert-butoxy)carboxamide | ClC1=C(C=CC(=C1)Cl)C1=NC(=NC=C1CN1CCOCC1)NCCNC(=O)OC(C)(C)C | C22H29Cl2N5O3
